US06677345B1
4.2 Preparation of 2-Amino-4-chloro-6-di-(4-methoxy-benzyl)amino-5-(1-hydroxyethyl)-pyrimidine (R═H)
Procedure as above with 2-Amino-4-chloro-6-di(4-methoxybenzyl)amino-5-pyrimidine carbaldehyde (0.20 g; 0.48 mmol) and 3.0 M methyl magnesium bromide (3 eq; 0.5 ml). Product obtained as a colourless glass (0.159 g; 0.37 mmol; 77%).

reactant | 2-Amino-4-chloro-6-di(4-methoxybenzyl)amino-5-pyrimidine carbaldehyde | 0.48 mmol, 0.20 g | NC1=NC(=C(C(=N1)Cl)C=O)N(CC1=CC=C(C=C1)OC)CC1=CC=C(C=C1)OC | C21H21ClN4O3
reactant | methyl magnesium bromide | 3.0 M, 0.5 ml, 3 eq | C[Mg]Br
product | 2-Amino-4-chloro-6-di-(4-methoxy-benzyl)amino-5-(1-hydroxyethyl)-pyrimidine | NC1=NC(=C(C(=N1)Cl)C(C)O)N(CC1=CC=C(C=C1)OC)CC1=CC=C(C=C1)OC | C22H25ClN4O3
